US04238414
Refer to Chart 0. The formula-CXIX 2-phenyl selenidyl compound is first prepared. The starting material is the methyl ester of (5E)-6a-carba-PGI2 (Example 23, 0.4 g.) which is converted to the formula-CXVIII bis(tetrahydropyran-2-yl ether) by reaction with dihydropyran in methylene chloride in the presence of pyridine hydrochloride following the procedure of Example 39-II. A solution of that bis(THP) methyl ester in 5 ml. of tetrahydrofuran is added dropwise to the amide formed from N-isopropylcyclohexylamine (0.3 g.) and n-butyllithium (equivalent 1.6 M hexane solution) in tetrahydrofuran (7 ml.) cooled to -78° C. The mixture is stirred at -78° C. for 45 min. and then phenylselenyl chloride is added in tetrahydrofuran solution over a 7 minute period. The mixture is stirred at -78° C. for an additional hour, then poured into 30 ml. of saturated ammonium chloride-ice-water mixture and extracted with diethyl ether. The organic phase is dried and concentrated. The residue is chromatographed on silica gel, eluting with ethyl acetate-toluene (1:8) to give the formula-CXIX compound.

reactant | dihydropyran | O1CCCC=C1 | C5H8O
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | N-isopropylcyclohexylamine | 0.3 g | C(C)(C)NC1CCCCC1 | C9H19N
